US06355642B1
1-(2-Carbamoylphenyl)piperazine
1-(2-Cyanophenyl)piperazine (1.8 g, 9.8 mmol) was dissolved in 90% sulfuric acid aqueous solution (20 ml) and stirred at a room temperature for 24 hours. The reaction solution was slowly added dropwise to a mixture of ice (75 g) and 28% aqueous ammonia (75 ml), and the reaction product was extracted with chloroform. The extract was washed with saturated brine and dried with sodium sulfate. Then the compound obtained by the evaporation of the solvent under a reduced pressure was separated by an aluminum column chromatography to obtain colorless crystals. By further recrystallizing the thus obtained crystals from ethyl acetate, 680 mg of the title compound was obtained (3.1 mmol, 32% in yield).

reactant | 1-(2-Cyanophenyl)piperazine | 9.8 mmol, 1.8 g | C(#N)C1=C(C=CC=C1)N1CCNCC1 | C11H13N3
reactant | ammonia | 75 ml | N | H3N
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 1-(2-Carbamoylphenyl)piperazine | 680 mg | C(N)(=O)C1=C(C=CC=C1)N1CCNCC1 | C11H15N3O
